US06030969
11b. 4-bromo-2-(2,2-dicyanoethenyl)thiophene
4-Bromo-2-thiophenecarboxaldehyde (6.92 g, 36.2 mmol) and malononitrile (2.39 g, 36.2 mmol) were dissolved in 100 mL 1:1 EtOH:H2O. A small spatula of glycine was added and the reaction was stirred at ambient temperature for 30 min. The precipitated product was collected by suction filtration, washed with water, and dried under vacuum overnight. The result was 8.38 g (97% ) 4bromo-2-(2,2-dicyanoethenyl)thiophene as a light green solid. MS 238/240 (M+H)+.

reactant | 4-Bromo-2-thiophenecarboxaldehyde | 36.2 mmol, 6.92 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | malononitrile | 36.2 mmol, 2.39 g | C(CC#N)#N | C3H2N2
reactant | H2O | O | H2O
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | EtOH | CCO | C2H6O
product | 4-bromo-2-(2,2-dicyanoethenyl)thiophene | BrC=1C=C(SC1)C=C(C#N)C#N | C8H3BrN2S
